US07414060B2
6-Methyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid (5-fluoro-6-methyl-pyridin-2-yl)-amide
The title compound was prepared from 3-tert-Butoxy-carbonylamino-6-methyl-pyridine-2-carboxylic acid methyl ester in accordance with the general method of example 4; step 2 using 2-amino-5-fluoro-6-methylpyridine (Sanchez & al., J. Heterocycl. Chem. 24, 215(1987); CAS:[110919-71-6]) instead of 2-chloro-4-aminopyridine to yield [2-(5-Fluoro-6-methyl-pyridin-2-ylcarbamoyl)-6-methyl-pyridin-3-yl]-carbamic acid tert-butyl ester, white solid, MS (ISP): m/e=361.0 (M+H+). Boc-deprotection as described in example 4 step 3 yielded 3-Amino-6-methyl-pyridine-2-carboxylic acid (5-fluoro-6-methyl-pyridin-2-yl)-amide, white solid, MS (ISP): m/e=261.3 (M+H+). Palladium catalysed arylation with 3-Bromopyridine as described in example 4 step 4 yielded the final product as a yellow solid, (ISP): m/e=338.1 (M+H+).

reactant | 3-Amino-6-methyl-pyridine-2-carboxylic acid (5-fluoro-6-methyl-pyridin-2-yl)-amide | FC=1C=CC(=NC1C)NC(=O)C1=NC(=CC=C1N)C | C13H13FN4O
reactant | 3-Bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
catalyst | Palladium | [Pd] | Pd
product | 6-Methyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid (5-fluoro-6-methyl-pyridin-2-yl)-amide | FC=1C=CC(=NC1C)NC(=O)C1=NC(=CC=C1NC=1C=NC=CC1)C | C18H16FN5O
